US07678787B2
Step A. 2′-Methoxymethyl-biphenyl-4-carboxylic acid
To a suspension of 4-iodobenzoic acid (0.82 g, 3.31 mmol) and 2-methoxymethylphenylboronic acid (0.55 g, 3.31 mmol) in dry acetonitrile (30 mL) was added a 0.4 M aqueous sodium carbonate solution (30 mL) and the reaction mixture purged with nitrogen for 10 minutes. Tetrakis(triphenylphosphine)palladium(0) (90 mg, 0.078 mmol) was then added and the reaction mixture heated to 90° C. for 19 hours. The hot reaction mixture was filtered through celite, concentrated in vacuo to remove acetonitrile and the resulting aqueous suspension washed with ethyl acetate (2×30 mL). The aqueous phase was acidified to pH 1 by the addition of concentrated hydrochloric acid, the resulting white suspension cooled to 4° C. for 1 hour and the solid product filtered. Recrystallization from dichloroethane gave the title compound (0.469 g, 59%) as a white solid, m.p. 164.5-165.5° C.

reactant | 4-iodobenzoic acid | 3.31 mmol, 0.82 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | 2-methoxymethylphenylboronic acid | 3.31 mmol, 0.55 g | COCC1=C(C=CC=C1)B(O)O | C8H11BO3
reactant | sodium carbonate | 0.4 M, 30 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.078 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′-Methoxymethyl-biphenyl-4-carboxylic acid | 0.469 g, 59% | COCC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C15H14O3
